US05459138
4-ETHYLAMINOPYRIDINE-3-SULFONAMIDE
By carrying out the reaction as in Preparation 13, but starting from 2 g of 4-chloropyridine-3- sulfonamide and 20 cm3 of 70% ethylamine in water, the compound is obtained.

reactant | 4-chloropyridine-3- sulfonamide | 2 g | ClC1=C(C=NC=C1)S(=O)(=O)N | C5H5ClN2O2S
reactant | ethylamine | 20 cm3 | C(C)N | C2H7N
solvent | water | O | H2O
product | 4-ETHYLAMINOPYRIDINE-3-SULFONAMIDE | C(C)NC1=C(C=NC=C1)S(=O)(=O)N | C7H11N3O2S
